US04383945
Tributyltin hydride (0.707 ml) was added to a mixture of methyl 2-[(3R,4R)-3-(1-hydroxy-1-methylethyl)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate (630 mg) and azobisisobutyronitrile (34 mg) in benzene (6 ml) at room temperature, and the mixture was refluxed for 15 minutes. The reaction mixture was cooled and chromatographed on silica gel (20 g) eluting with a mixture of hexane and ethyl acetate (3:1-1:1) to give a 3:1 mixture (559 mg) of methyl 2-[(3S,4R)-3-(1-hydroxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate and its (3R,4R)-isomer.

reactant | Tributyltin hydride | 0.707 ml | C(CCC)[SnH](CCCC)CCCC
reactant | methyl 2-[(3R,4R)-3-(1-hydroxy-1-methylethyl)-3-isocyano-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 630 mg | OC(C)(C)[C@]1(C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O)[N+]#[C-] | C16H22N2O4
reactant | azobisisobutyronitrile | 34 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-[(3S,4R)-3-(1-hydroxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl]-3-methylbut-2-enoate | 559 mg | OC(C)(C)[C@H]1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C15H23NO4
